US07414134B2
Step (v) Synthesis of (S)-4-methyl-N-(pent-4-yn-2-yl)benzenesulfonamide (54)
(S)-4-Methyl-N-(5-(trimethylsilyl)pent-4-yn-2-yl)benzenesulfonamide (2.0 g, 6.5 mmol) was dissolved in 15 mL MeOH and treated with K2CO3 (1.3 g, 9.7 mmol). The resulting mixture was stirred for 2 h at RT. The reaction mixture was quenched with sat. NH4Cl and the solvent removed. The residue was partitioned between EtOAc/H2O. The organic layer was washed with sat. NaHCO3, H2O, brine, dried over MgSO4 and concentrated. The residue was purified using SiO2 (80% hexanes: 20% acetone) to afford the title compound. MS (m/z): 238.3 (M+H) (Calc'd for C12H15NO2S: 237.32).

reactant | (S)-4-Methyl-N-(5-(trimethylsilyl)pent-4-yn-2-yl)benzenesulfonamide | 6.5 mmol, 2.0 g | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C)CC#C[Si](C)(C)C | C15H23NO2SSi
reactant | K2CO3 | 9.7 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 mL | CO | CH4O
product | (S)-4-methyl-N-(pent-4-yn-2-yl)benzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C)CC#C | C12H15NO2S
